US07256198B2
Step 2: 5-{[(2S)-2-(Methoxymethyl)pyrrolidin-1-yl]sulfonyl}-1H-indole-2,3-dione
To a cold suspension of 2,3-dioxo-2,3-dihydro-1H-indole-5-sulfonylchloride (5.28 g, 21.5 mmol) in a 1:1 mixture of THF:CHCl3 (254 mL) was added drop-wise via syringe pump a solution of (S)-(+)-2-(methoxymethyl)-pyrrolidine (3.45 mL, 28.0 mmol, 1.3 eq) (Aldrich) and N,N-diisopropylethylamine (7.49 mL, 43 mmol, 2 eq) in CHCl3 (42 mL) over a period of 70 minutes under a dry N2 atmosphere with cooling in an ice bath. After stirring an additional 20 minutes the mixture was concentrated. The residue was flash chromatographed (Biotage KP silica gel, 98/2 CH2Cl2/CH3OH) to give the title compound as a dark greenish-yellow foam (6.48 g. 93% yield). NMR (400 MHz, DMSO-d6): consistent MS: (API-ES−) m/z 323 [M−H].

reactant | 2,3-dioxo-2,3-dihydro-1H-indole-5-sulfonylchloride | 21.5 mmol, 5.28 g | O=C1NC2=CC=C(C=C2C1=O)S(=O)(=O)Cl | C8H4ClNO4S
reactant | THF | C1CCOC1 | C4H8O
reactant | (S)-(+)-2-(methoxymethyl)-pyrrolidine | 28.0 mmol, 3.45 mL, 1.3 eq | COC[C@H]1NCCC1 | C6H13NO
reactant | N,N-diisopropylethylamine | 43 mmol, 7.49 mL, 2 eq | C(C)(C)N(C(C)C)CC | C8H19N
solvent | CHCl3 | 42 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 254 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-{[(2S)-2-(Methoxymethyl)pyrrolidin-1-yl]sulfonyl}-1H-indole-2,3-dione | 6.48 g, 93% yield | COC[C@H]1N(CCC1)S(=O)(=O)C=1C=C2C(C(NC2=CC1)=O)=O | C14H16N2O5S
